US06060469
4-[4-(Trifluoromethoxy)phenyl]pyridine
A mixture of 4-(trifluoromethoxy)benzene boronic acid (2 g, 9.7 mmol), 4-bromopyridine hydrochloride (2.83 g, 14.5 mmol), diphenylphosphinobutylpalladium (II) dichloride (100 mg), dimethoxyethane (50 ml) and a 2M sodium carbonate solution (30 ml) were stirred at 85° C. for 2 hours. The solution was allowed to cool to ambient temperature diluted with water (100 ml), and extracted with ethyl acetate (2×100 ml). The combined organic layers were dried over sodium sulphate. Removal of the solvents in vacuo gave an oil which was chromatographed on silica in 30% ethyl acetate/hexane giving the title compound as an oil (1.86 g, 80%). 1H NMR (250 MHz, CDCl3) δ 8.72-8.70 (2H, d, J=6.2 Hz), 7.69-7.63 (2H, d, J=9.6 Hz), 7.49-7.47 (2H, d, J=6.2 Hz), and 7.36-7.32 (2H, d, J=9.6 Hz). m/z (ES+) 240 (M+1).

reactant | 4-(trifluoromethoxy)benzene boronic acid | 9.7 mmol, 2 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | 4-bromopyridine hydrochloride | 14.5 mmol, 2.83 g | Cl.BrC1=CC=NC=C1
reactant | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
reactant | sodium carbonate | 2M, 30 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 ml | O | H2O
catalyst | diphenylphosphinobutylpalladium (II) dichloride | 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)CCCC[Pd-](Cl)Cl
product | 4-[4-(Trifluoromethoxy)phenyl]pyridine | FC(OC1=CC=C(C=C1)C1=CC=NC=C1)(F)F | C12H8F3NO
